US06156739
8-Methyl-2-(4'-hydroxyphenyl)quinazolin-4-[3 H]-one
3-Methyl-2-nitrobenzamide (1.20 g, 6.7 mmol) was dissolved in methanol and 10% activated palladium on carbon catalyst (150 mg) was added. The reaction vessel was placed under an atmosphere of hydrogen, at ambient temperature and pressure, until no further hydrogen absorption was observed. The catalyst was removed by filtration of the reaction mixture through a pad of Celite™, which was pre-washed with methanol (150 ml). The solvent was removed under vacuum to give the required product in good yield. The product was used for subsequent reactions without further purification. Yield (0.97 g, 6.4 mmol, 97%), m.p. 145-147° C.

reactant | 3-Methyl-2-nitrobenzamide | 6.7 mmol, 1.20 g | CC=1C(=C(C(=O)N)C=CC1)[N+](=O)[O-] | C8H8N2O3
reactant | methanol | CO | CH4O
catalyst | palladium on carbon | 150 mg | [Pd] | Pd
product | 8-Methyl-2-(4'-hydroxyphenyl)quinazolin-4-[3 H]-one | CC=1C=CC=C2C(NC(=NC12)C1=CC=C(C=C1)O)=O | C15H12N2O2
